US04205170
To 100 mg of 2-(10,11-dihydro-11-oxo dibenzo[b,f]oxepin-4-yl)-propionamide in 2 ml of ethanol was added 400 mg of potassium hydroxide in 2 ml of water and the mixture was refluxed with stirring for 6.5 hours. After the completion of the reaction, the solvent was distilled off to obtain the residue, to which was added 2N-sodium hydroxide solution, and the resulting mixture was extracted with ethyl acetate. The aqueous layer was acidified with hydrochloric acid and extracted with ethyl acetate. The extract was washed with saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off to obtain brown oil, which was chromatographed over silica gel, eluted with chloroform and crystallized from acetone-n-hexane to give 85 mg of 2-(10,11-dihydro-11-oxo dibenzo[b,f]oxepin-4-yl)-propionic acid as pale yellow crystals having a melting point of 159°-160° C.

reactant | 2-(10,11-dihydro-11-oxo dibenzo[b,f]oxepin-4-yl)-propionamide | 100 mg | O=C1C2=C(OC3=C(C1)C=CC=C3)C(=CC=C2)C(C(=O)N)C | C17H15NO3
reactant | potassium hydroxide | 400 mg | [OH-].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
product | 2-(10,11-dihydro-11-oxo dibenzo[b,f]oxepin-4-yl)-propionic acid | 85 mg | O=C1C2=C(OC3=C(C1)C=CC=C3)C(=CC=C2)C(C(=O)O)C | C17H14O4
